US04443451
A mixture of 3.75 parts of 6-(2-chloroethyl)-3,7-dimethyl-5H-thiazolo[3,2-a]pyrimidin-5-one, 3.6 parts of (4-fluorophenyl) (4-piperidinyl)methanone hydrochloride, 12 parts of sodium carbonate, 0.1 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone was stirred and refluxed for 22 hours using a water-separator. The reaction mixture was filtered hot over Hyflo and the filtrate was evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of acetonitrile and 2,2'-oxybispropane, yielding 5 parts of 6-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-3,7-dimethyl-5H-thiazolo[3,2-a]pyrimidin-5-one; mp. 199.7° C. (compound 4).

reactant | 6-(2-chloroethyl)-3,7-dimethyl-5H-thiazolo[3,2-a]pyrimidin-5-one | ClCCC1=C(N=C2N(C1=O)C(=CS2)C)C | C10H11ClN2OS
reactant | (4-fluorophenyl) (4-piperidinyl)methanone hydrochloride | Cl.FC1=CC=C(C=C1)C(=O)C1CCNCC1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 6-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-3,7-dimethyl-5H-thiazolo[3,2-a]pyrimidin-5-one | FC1=CC=C(C(=O)C2CCN(CC2)CCC2=C(N=C3N(C2=O)C(=CS3)C)C)C=C1 | C22H24FN3O2S
